US08420816B2
4-(4-ethylpiperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one
tert-Butyl 4-ethyl-4-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate (50 mg, 0.124 mmol), HATU (94 mg, 0.248 mmol), and 4-dimethylaminopyridine (46 mg, 0.373 mmol) were stirred in DMF (3 mL) at room temperature for 1 h. The solution was concentrated in vacuo and dissolved in DCM (3 mL) and TFA (1 mL) and allowed to stir at room temperature for 1 h. The solution was concentrated in vacuo and was purified via preparative HPLC 10% to 30% B in A and gave 28 mg of the title compound as its TFA salt. 1H NMR (400 MHz, CD3OD) δ 7.36 (m, 1H), 7.27 (m, 1H), 5.04 (s, 2H), 3.22-3.34 (m, 2H), 3.19-3.21 (m, 2H), 2.95-2.98 (m, 2H), 2.13-2.23 (m, 4H), 0.97 (t, 3H, J=7.6 Hz). [M+H] found 285.

reactant | tert-Butyl 4-ethyl-4-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate | 0.124 mmol, 50 mg | C(C)C1(CCN(CC1)C(=O)OC(C)(C)C)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C21H28N4O3
reactant | HATU | 0.248 mmol, 94 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
catalyst | 4-dimethylaminopyridine | 0.373 mmol, 46 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(4-ethylpiperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one | 28 mg | C(C)C1(CCNCC1)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C16H20N4O
